US08604074B2
Step 4. Synthesis of 1-(3,6-dibromo-9H-carbazol-9-yl)-4-(phenylamino)butan-2-ol
NaH (60% dispersed in mineral oil, 0.0018 g, 0.0452 mmol) was added to a solution of 3,6-dibromocarbazole (0.0147 g, 0.0452 mmol) in 0.5 mL anhydrous THF and the mixture was stirred for 15 min. N-(2-(oxiran-2-yl)ethyl)aniline (0.0067 g, 0.0410 mmol) in 1.5 mL anhydrous THF solution was added dropwise and the resulting mixture was stirred at 60° C. overnight. THF was removed under vacuum and the residue was dissolved in 10 mL EtOAc and washed with water 2×5 mL. The organic layer was dried over anhydrous Na2SO4 and evaporated to afford the crude product, which was subjected to silica gel chromatography using Hexanes/EtOAc to afford 0.0115 g colorless oil; yield 57.5%.

reactant | NaH | 0.0452 mmol, 0.0018 g | [H-].[Na+]
reactant | 3,6-dibromocarbazole | 0.0452 mmol, 0.0147 g | BrC=1C=CC=2NC3=CC=C(C=C3C2C1)Br | C12H7Br2N
reactant | N-(2-(oxiran-2-yl)ethyl)aniline | 0.0410 mmol, 0.0067 g | O1C(C1)CCNC1=CC=CC=C1 | C10H13NO
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 1-(3,6-dibromo-9H-carbazol-9-yl)-4-(phenylamino)butan-2-ol | 0.0115 g, yield 57.5% | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC(CCNC1=CC=CC=C1)O | C22H20Br2N2O
